US04770988
A mixture of 46 g of 2-(4-t-amyl-2-chlorophenoxy)octanoic acid and 46 ml of toluene was heated to 60° C., and 20.3 ml of thionyl chloride was slowly added thereto dropwise while stirring. After allowing the mixture to react at that temperature for 2 hours, the excess thionyl chloride and toluene were removed by distillation under reduced pressure to obtain 48 g of 2-(4-t-amyl-2-chlorophenoxy)octanoic acid chloride.

reactant | 2-(4-t-amyl-2-chlorophenoxy)octanoic acid | 46 g | C(C)(C)(CC)C1=CC(=C(OC(C(=O)O)CCCCCC)C=C1)Cl | C19H29ClO3
reactant | thionyl chloride | 20.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 46 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-t-amyl-2-chlorophenoxy)octanoic acid chloride | 48 g | C(C)(C)(CC)C1=CC(=C(OC(C(=O)Cl)CCCCCC)C=C1)Cl | C19H28Cl2O2
